US08476302B2
Pyridinium chlorochromate (19.26 g, 0.088 mol) was added to a solution of hept-6-en-1-ol (5.0 g, 0.044 mol) and dichloromethane (600 mL). The resulting mixture was stirred at room temperature for 2 h, then diluted with diethyl ether, filtered through silica gel and concentrated in vacuo below room temperature to yield hept-6-enal as an oil, which was used in the next step without further purification. To a solution of hept-6-enal (4.9 g, 0.044 mol) in ethyl acetate (36 mL) was added a solution of sodium cyanide (6.4 g, 0.13 mol) in water (36 mL) and the resulting mixture was stirred at room temperature for 24 h. The layers were separated and the aqueous layer was extracted 2 times with ethyl acetate. The combined organic layers were dried (MgSO4) filtered and concentrated in vacuo to yield 2-hydroxyoct-7-enenitrile as a tan oil, which was used in the next step without further purification. A stream of HCl(g) was introduced into a solution of 2-hydroxyoct-7-enenitrile (6.0 g, 0.043 mmol) and methanol (130 mL) at −78° C. for 5 min. The resulting mixture was stored at −10° C. for 18 h, then concentrated in vacuo. The residue was diluted with ethyl acetate (106 mL) and water (106 mL) and the solution was stirred at room temperature overnight. The layers were separated, and the organic layer was dried with MgSO4, filtered, and concentrated in vacuo to yield methyl 2-hydroxyoct-7-enoate. 1H NMR (400 MHz, CDCl3) δ 5.48-5.82 (m, 1H), 4.89-5.08 (m, 2H), 4.31-4.52 (m, 1H), 3.79 (s, 3H), 2.78-3.12 (bs, 1H), 2.02-2.28 (m, 2H), 1.75-1.89 (m, 1H), 1.68-1.70 (m, 1H), and 1.38-1.52 (m, 4H).

reactant | hept-6-enal | 0.044 mol, 4.9 g | C(CCCCC=C)=O | C7H12O
reactant | sodium cyanide | 0.13 mol, 6.4 g | [C-]#N.[Na+]
solvent | ethyl acetate | 36 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 36 mL | O | H2O
product | 2-hydroxyoct-7-enenitrile | OC(C#N)CCCCC=C | C8H13NO
